US08389511B2
4-Fluoro-2-methyl-5-nitrobenzoic acid
To a suspension of 4-fluoro-2-methylbenzoic acid (32.5 g) in conc. sulfuric acid (50 ml) was added dropwise conc. nitric acid (8.4 ml) at 0° C., and the mixture was stirred at room temperature for 5 hours. The reaction mixture was poured into ice-water (500 ml), and the mixture was extracted with diisopropyl ether (300 ml), and the organic layer was washed with water, and a saturated aqueous sodium chloride solution, dried over sodium sulfate, filtered, concentrated under reduced pressure to give the title compound (40.0 g).

reactant | 4-fluoro-2-methylbenzoic acid | 32.5 g | FC1=CC(=C(C(=O)O)C=C1)C | C8H7FO2
reactant | nitric acid | 8.4 ml | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 50 ml | S(O)(O)(=O)=O | H2O4S
product | 4-Fluoro-2-methyl-5-nitrobenzoic acid | 40.0 g | FC1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])C | C8H6FNO4
